US09029538B2
1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(5,6-dimethoxy-quinolin-4-yloxy)-phenyl]-amide.
This compound was synthesized using 4-(5,6-dimethoxy-quinolin-4-yloxy)-phenylamine and 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid using the procedure for example 1. mp>250° C.; LCMS m/z=557 (M+1); 1H NMR (DMSO) δ: 10.92 (s, 1H), 8.86 (s, 1H), 8.48 (m, 1H), 7.79 (m, 2H), 7.49 (s, 1H), 7.35-7.42 (m, 5H), 7.24-7.27 (m, 2H), 6.49 (m, 1H), 4.00 (m, 2H), 3.94 (s, 3H), 3.92 (s, 3H), 1.29 (m, 3H).

reactant | 4-(5,6-dimethoxy-quinolin-4-yloxy)-phenylamine | COC1=C2C(=CC=NC2=CC=C1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | C(C)N1C(N(C(C(=C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O | C13H11FN2O4
product | 1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(5,6-dimethoxy-quinolin-4-yloxy)-phenyl]-amide | COC1=C2C(=CC=NC2=CC=C1OC)OC1=CC=C(C=C1)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O | C30H25FN4O6
